US08232289B2
To a solution of ethyl 1-[3-(dimethylaminomethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate (217.7 g, 0.75 mmol) in tetrahydrofuran (5 mL) cooled to 0° C. and under nitrogen, 1 M lithium aluminum hydride in tetrahydrofuran (0.9 mL, 0.9 mmol) is added and the mixture is stirred at that temperature for 5 minutes. The reaction is quenched with saturated aqueous solution of ammonium chloride and the crude is extracted with ethyl acetate. The organic layer is separated, dried on sodium sulfate and the solvent is evaporated in vacuo. In this particular example the compound is not isolated in the organic extraction and is finally separated from the aqueous solution with an SCX cartridge to afford 146 mg (78%) of [1-[3-(dimethylaminomethyl)-2-pyridyl]-3-methyl-pyrazol-4-yl]methanol that is used with no further purification. MS (m/z): 247 (M+1).

reactant | ethyl 1-[3-(dimethylaminomethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate | 0.75 mmol, 217.7 g | CN(C)CC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OCC)C | C15H20N4O2
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.9 mmol, 0.9 mL | O1CCCC1 | C4H8O
product | [1-[3-(dimethylaminomethyl)-2-pyridyl]-3-methyl-pyrazol-4-yl]methanol | 146 mg, 78% | CN(C)CC=1C(=NC=CC1)N1N=C(C(=C1)CO)C | C13H18N4O
